US08685970B2
Step 2) Preparation of 1-(thiazol-2-yl)-3-(2-(3-(trifluoromethoxy)phenyl)quinolin-8-yl)urea
To a mixture of 8-isocyanato-2-(3-(trifluoromethoxy)phenyl)quinoline (0.277 mmol) in toluene (5 mL) was added 2-aminothiazole (0.553 mmol, 55 mg). The mixture was concentrated to dryness, redissolved in pyridine and microwave heated (140° C.×10 min). The reaction mixture was diluted with CH2Cl2, washed with saturate aqueous NaHCO3, water, brine. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography (0% to 100% ethyl acetate in pentane) afforded the desired product. MS (ESI) calcd for C20H13F3N4O2S (m/z): 430.07. found: 431 [M+1].

reactant | 8-isocyanato-2-(3-(trifluoromethoxy)phenyl)quinoline | 0.277 mmol | N(=C=O)C=1C=CC=C2C=CC(=NC12)C1=CC(=CC=C1)OC(F)(F)F | C17H9F3N2O2
reactant | 2-aminothiazole | 0.553 mmol, 55 mg | NC=1SC=CN1 | C3H4N2S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(thiazol-2-yl)-3-(2-(3-(trifluoromethoxy)phenyl)quinolin-8-yl)urea | S1C(=NC=C1)NC(=O)NC=1C=CC=C2C=CC(=NC12)C1=CC(=CC=C1)OC(F)(F)F | C20H13F3N4O2S
